US04665217
(A) Preparation of 1,2-bis[4-(2-hydroxyethoxy)phenyl]-1,1,2,2-tetrafluoroethane
700 ml of ethylene glycol and 65 g of 1,2-bis(4-fluorophenyl)-1,1,2,2-tetrafluoroethane* are heated to 110° C. in a stirred flask. 57 g of potassium tert.-butylate are added in portions and the mixture is then stirred at 150° C. for 7 hours. The mixture is cooled, poured onto 4 liters of ice-water and mixed thoroughly with a homogenizer (Ultraturax). The crystals which have precipitated are filtered-off with suction, stirred again with 2 liters of water filtered-off with suction again, dried and recrystallized from toluene.

reactant | 1,2-bis(4-fluorophenyl)-1,1,2,2-tetrafluoroethane | 65 g | FC1=CC=C(C=C1)C(C(F)(F)C1=CC=C(C=C1)F)(F)F | C14H8F6
reactant | ethylene glycol | 700 ml | C(CO)O | C2H6O2
product | 1,2-bis[4-(2-hydroxyethoxy)phenyl]-1,1,2,2-tetrafluoroethane | OCCOC1=CC=C(C=C1)C(C(F)(F)C1=CC=C(C=C1)OCCO)(F)F | C18H18F4O4
